US06143763
To a suspension of 6-(3-phthalimidopropoxy)carbostyril (300 g) in ethanol (3 liters) is added hydrazine monohydrate (46 g), and the mixture is refluxed for 8 hours. After the mixture is allowed to cool, the precipitated crystals are collected by filtration, suspended in water, and the suspension thus obtained is acidified with conc. hydrochloric acid, and stirred for one hour. The insoluble materials are removed by filtration, and the filtrate is concentrated under reduced pressure to remove the solvent. The residue is neutralized to pH 7 with a 15% aqueous sodium hydroxide solution. The precipitated crystals are collected by filtration, and washed successively with ethanol and diethyl ether, and dried to give 6-(3-aminopropoxy)carbostyril (140 g) as a white powder.

reactant | 6-(3-phthalimidopropoxy)carbostyril | 300 g | C1(C=2C(C(N1CCCOC=1C=C3C=CC(NC3=CC1)=O)=O)=CC=CC2)=O | C20H16N2O4
reactant | hydrazine monohydrate | 46 g | O.NN
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 3 liters | C(C)O | C2H6O
product | 6-(3-aminopropoxy)carbostyril | 140 g | NCCCOC=1C=C2C=CC(NC2=CC1)=O | C12H14N2O2
